US05091533
A mixture of 6-allyl-3,3-dimethyl-5-hydroxy-2-methoxy-2,3-dihydrobenzofuran, E70a, (20 gm; 85 mmoles), acetic acid (160 mL) and water (40 mL) was refluxed for 18 hours. The mixture was concentrated in vacuo and the residue chromatographed on silica gel using 20% ethyl acetate in hexane as eluent to obtain 17.8 gm (94%) of 6-allyl-2,5-dihydroxy-3,3-dimethyl-2,3-dihydrobenzofuran, E79, m.p. 66°-67° C.

reactant | 6-allyl-3,3-dimethyl-5-hydroxy-2-methoxy-2,3-dihydrobenzofuran | C(C=C)C1=CC2=C(C(C(O2)OC)(C)C)C=C1O | C14H18O3
reactant | acetic acid | 85 mmoles, 160 mL, 20 gm | C(C)(=O)O | C2H4O2
solvent | water | 40 mL | O | H2O
product | 6-allyl-2,5-dihydroxy-3,3-dimethyl-2,3-dihydrobenzofuran | 17.8 gm, 94% | C(C=C)C1=CC2=C(C(C(O2)O)(C)C)C=C1O | C13H16O3
